US07265120B2
A mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (100 mg) and benzylamine (0.085 ml) in DMA (0.2 ml) was heated at 120-125° C. for 50 hours. After addition of water (4 ml), an aqueous layer was removed by decantation to give a residue. The residue was dissolved in CHCl3, dried over MgSO4, concentrated under reduced pressure and purified by preparative TLC on silica gel (CHCl3 only). A less polar zone was gave 6-[5-amino-6-(dimethylamino)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone as a solid (18 mg) and a more polar zone was gave 6-[5-amino-6-(benzylamino)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone as a solid (67 mg).

reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | benzylamine | 0.085 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 4 ml | O | H2O
reactant | DMA | 0.2 ml | CC(=O)N(C)C | C4H9NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-[5-amino-6-(dimethylamino)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 18 mg | NC=1N=C(C(=NC1N(C)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C19H22N6O
